US07230031B2
3-Benzyloxy-2-ethyl-6-(5-methyl-7-nitroindan-4-yloxy)phenol
To a solution of 1-[6-benzyloxy-2-hydroxy-3-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethanone (1.081 g) in dichloromethane (18 mL) were added triethylsilane (0.955 mL) and trifluoroacetic acid (6 mL). The mixture was stirred at room temperature overnight. Adding water, the reaction mixture was stirred for 30 min and extracted with dichloromethane. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was crystallized from dichloromethane and hexane to give the title compound (663 mg).

reactant | 1-[6-benzyloxy-2-hydroxy-3-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethanone | 1.081 g | C(C1=CC=CC=C1)OC1=CC=C(C(=C1C(C)=O)O)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C25H23NO6
reactant | triethylsilane | 0.955 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | O | H2O
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | 3-Benzyloxy-2-ethyl-6-(5-methyl-7-nitroindan-4-yloxy)phenol | 663 mg | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])O)CC | C25H25NO5
